US07074766B1
Synthesis of N-(3-(4-arsenosophenylcarbamoylmethylthio)propanoyl)-L-cysteic acid (Cys*AO)
The procedure used was the same as for N-(3-(4-arsenosophenylcarbamoylmethylthio)propanoyl)-L-glutamic acid, using 2.70 mL (189 μmol) of 70.0 mM BRAO in DMSO, the disulfide of disodium N-(3-mercaptopropanoyl)-L-cysteate (0.68 g), 0.5 M bicarbonate buffer, pH 9 (10.80 mL, 5.4 mmol), and 0.69 M triphenylphosphine in DMSO (1.8 mL, 1.2 mmol). The active concentration of trivalent arsenic was found to be 17.5 mM (12.3 mL of solution).

reactant | N-(3-(4-arsenosophenylcarbamoylmethylthio)propanoyl)-L-glutamic acid | [As](=O)C1=CC=C(C=C1)NC(=O)CSCCC(=O)N[C@@H](CCC(=O)O)C(=O)O | C16H19AsN2O7S
reactant | disodium N-(3-mercaptopropanoyl)-L-cysteate | 0.68 g | SCCC(=O)N[C@@H](CS(=O)(O)=O)C(=O)[O-].[Na+].[Na+].SCCC(=O)N[C@@H](CS(=O)(O)=O)C(=O)[O-]
reactant | bicarbonate | 0.5 M | C([O-])(O)=O
reactant | triphenylphosphine | 0.69 M | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 1.2 mmol, 1.8 mL | CS(=O)C | C2H6OS
product | N-(3-(4-arsenosophenylcarbamoylmethylthio)propanoyl)-L-cysteic acid | [As](=O)C1=CC=C(C=C1)NC(=O)CSCCC(=O)N[C@@H](CS(=O)(O)=O)C(=O)O | C14H17AsN2O8S2
